US08912186B2
To a solution of commercial 2-methylbenzaldehyde (18 g) and ethyl acetoacetate (39 g) in ethanol (30 ml) piperidine (3 ml) was added with stirring at rt. The mixture was kept at rt for 2 d. The precipitate was collected by suction filtration, washed with ethanol, and dried in vacuo to give 25.66 g of a yellowish solid (the bis-adduct of acetoacetate to the benzaldehyde). The powdered solid was added in portions to 40% NaOH (300 g) with stirring. The resulting yellow slurry was stirred at reflux for 2 h. After cooling in an ice bath the mixture was acidified by portionwise addition of conc. HCl (280 ml) to give a colourless precipitate. The solid was collected by suction filtration and washed with water. After drying in vacuo 3-(2-methylphenyl)glutaric acid (9.01 g) was obtained. The suspension of finely divided 3-(2-methylphenyl)glutaric acid in acetyl chloride (14.4 ml) was heated to reflux with stirring for 2 h. After cooling to rt petrol ether (50 ml) is added and the mixture is kept in the refrigerator for 12 h. The precipitate is isolated by suction filtration, washed with petrol ether, and dried in vacuo to give a crude which is dissolved in dichloromethane (400 ml). Insolubles are removed by filtration and the filtrate is concentrated in vacuo to provide 3-(2-methylphenyl)glutaric anhydride (6.79 g) as colourless solid.

reactant | NaOH | 300 g | [OH-].[Na+]
reactant | HCl | 280 ml | Cl | ClH
reactant | 3-(2-methylphenyl)glutaric acid | CC1=C(C=CC=C1)C(CC(=O)O)CC(=O)O | C12H14O4
solvent | acetyl chloride | 14.4 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 3-(2-methylphenyl)glutaric anhydride | 6.79 g | CC1=C(C=CC=C1)C1CC(=O)OC(C1)=O | C12H12O3
